US04922022
(p) 3-Methyl-5-oxo-5-[2-phenylethylamino]pentanoic acid
A solution of 2-phenylethylamine (6.3 ml) in dry toluene (50 ml) was added dropwise to a stirred solution of 3-methylglutaric anhydride (6.4 g) in dry toluene (250 ml) at 0° under a nitrogen atmosphere. After complete addition the mixture was heated at reflux temperature for 3 hours. The solution was evaporated and the residual oil triturated with ether (150 ml). The solid was filtered and dried to give the sub-title intermediate (3.3 g), mp 78°-80°.

reactant | 2-phenylethylamine | 6.3 ml | C1(=CC=CC=C1)CCN | C8H11N
reactant | 3-methylglutaric anhydride | 6.4 g | CC1CC(=O)OC(C1)=O | C6H8O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Methyl-5-oxo-5-[2-phenylethylamino]pentanoic acid | 3.3 g | CC(CC(=O)O)CC(NCCC1=CC=CC=C1)=O | C14H19NO3
